US09428499B2
Step b: Synthesis of 3-(3-aminophenyl)-methyl propanamide
To a stirred solution of N-methyl-3-(3-nitrophenyl)acrylamide (4 g, 19.40 mmol) and Pd—C (10%, 200 mg) in MeOH (30.0 ml) was added triethylsilane (31 ml, 194 mmol) dropwise at room temperature over a period of 1 hr. Reaction progress was monitored by TLC. After completion of reaction, reaction mixture was filtered through celite bed. The filtrate was concentrated under vacuum to give the title compound (2.5 gm).

reactant | N-methyl-3-(3-nitrophenyl)acrylamide | 19.40 mmol, 4 g | CNC(C=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C10H10N2O3
reactant | triethylsilane | 194 mmol, 31 ml | C(C)[SiH](CC)CC | C6H16Si
solvent | MeOH | 30.0 ml | CO | CH4O
catalyst | Pd—C | 200 mg | [Pd] | Pd
product | 3-(3-aminophenyl)-methyl propanamide | 2.5 gm | NC=1C=C(C=CC1)CC(C(=O)N)C | C10H14N2O
